US06372770B1
(a) N-(2-Chlorophenylacetyl)-2-hydroxyaniline
To a mixture of 1,1′-carbonyl diimidazole (12.45 g, 0.077 mol) and dichloromethane (50 ml) was added 2-chlorophenylacetic acid (12.5 g, 0.073 mol) in portions. The mixture was stirred for 1 h and 2-hydroxyaniline (7.99 g, 0.073 mol) was added in one portion. After stirring overnight, the reaction mixture was diluted with water and filtered to give the title compound (18.3 g after drying).

reactant | 1,1′-carbonyl diimidazole | 0.077 mol, 12.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | 2-chlorophenylacetic acid | 0.073 mol, 12.5 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | 2-hydroxyaniline | 0.073 mol, 7.99 g | OC1=C(N)C=CC=C1 | C6H7NO
solvent | water | O | H2O
product | N-(2-Chlorophenylacetyl)-2-hydroxyaniline | 18.3 g | ClC1=C(C=CC=C1)CC(=O)NC1=C(C=CC=C1)O | C14H12ClNO2
